US07989460B2
7-Hydroxy-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (85 g, 270 mmol, several batches pooled together) was dissolved in DMF (400 mL), potassium carbonate (77 g, 550 mmol) and dichloroethane (400 mL, 5130 mmol) were added and the reaction mixture was stirred overnight at 70° C. The solid was removed by filtration and washed with DMF. The solvent was evaporated and the solid so obtained was washed with water and dried at 50° C. over P2O5. The crude product was purified by flash chromatography using dichloromethane/ethyl acetate (85/15 up to 75/25). Evaporation of the solvent gave 7-(2-chloroethoxy)-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (65.6 g, 66%) as a white solid.

reactant | 7-Hydroxy-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | OC1=C(C=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O)OC | C15H18N2O5
reactant | potassium carbonate | 550 mmol, 77 g | C([O-])([O-])=O.[K+].[K+]
reactant | dichloroethane | 5130 mmol, 400 mL | ClC(C)Cl | C2H4Cl2
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
product | 7-(2-chloroethoxy)-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 65.6 g, 66% | ClCCOC1=C(C=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O)OC | C17H21ClN2O5
